US07572808B2
A. Preparation of 7-bromo-8-(4-chlorophenyl)-2-(methoxymethyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
To a degassed mixture of 7-bromo-8-iodo-2-(methoxymethyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (3.0 g, 7.8 mmol), 4-chlorophenylboronic acid (1.32 g, 8.6 mmol) and K2CO3 (2.16 g, 15.6 mmol) in 1,4-dioxane (42 mL) and H2O (14 mL) under argon at 20° C. was added Pd(PPh3)4 (450 mg, 0.39 mmol). The reaction mixture was refluxed for 40 h under argon and then cooled to 20° C. The reaction mixture was diluted with H2O (30 mL) and extracted with EtOAc (3×50 mL). The combined organic extract was washed with saturated aqueous NaHCO3 solution (50 mL), then brine (50 mL), dried over MgSO4, filtered and concentrated in vacuo. The residue was successively triturated with hexanes and Et2O and dried under high vacuum to obtain the title compound as a light yellow solid (2.7 g, 7.4 mmol) in 85% purity along with bis-4-chlorophenyl coupled by-product. The crude product was used without further purification. MS: [M+H]+=368.0.

reactant | 7-bromo-8-iodo-2-(methoxymethyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 7.8 mmol, 3.0 g | BrC1=C(C=2N(C=C1)C(N(N2)COC)=O)I | C8H7BrIN3O2
reactant | 4-chlorophenylboronic acid | 8.6 mmol, 1.32 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | K2CO3 | 15.6 mmol, 2.16 g | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 42 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 14 mL | O | H2O
solvent | H2O | 30 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.39 mmol, 450 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-bromo-8-(4-chlorophenyl)-2-(methoxymethyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 7.4 mmol, 2.7 g | BrC1=C(C=2N(C=C1)C(N(N2)COC)=O)C2=CC=C(C=C2)Cl | C14H11BrClN3O2
